US04218235
To a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (6.6 g, 0.02 mole) in ether (200 ml.) was added a solution of allyl alcohol (2.32 g, 0.04 mole) and triethylamine (4.04 g, 0.04 mole) in ether (75 ml.). The resulting mixture was stirred for 3 days at 20° C. The mixture was filtered and the filtrate was concentrated in vacuo to afford a clear oil. This oil was extracted into petroleum ether, then concentrated in vacuo to give 6.25 g of ethyl N-trifluoroacetyl-N-(diallyloxyphosphonomethyl)glycinate as an oil, ND26.6 =1.4382.

reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.02 mole, 6.6 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | allyl alcohol | 0.04 mole, 2.32 g | C(C=C)O | C3H6O
reactant | triethylamine | 0.04 mole, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | ether | 200 ml | CCOCC | C4H10O
reactant | ether | 75 ml | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(diallyloxyphosphonomethyl)glycinate | 6.25 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OOCC=C)OOCC=C)(F)F | C13H19F3NO8P
